US04124374
A solution of 19.7 parts of 4-chloro-2-fluorophenylhydrazine and 14.0 parts of 2-acetylcyclohexanone in 50 parts of xylene and 1 part of glacial acetic acid were refluxed for 24 hours with a Dean Stark trap to collect the water formed. The xylene was distilled from the mixture. The residual oil was dissolved in arm hexane solution. On cooling, 6.2 parts of crude product was obtained. Recrystallization of this product yielded white crystals of 2-(4-chloro-2-fluorophenyl)-3-methyl-4,5,6,7-tetrahydro-2H-indazole, melting point 84.5°-87.5° C; ir bands (1570 cm-1, 905 cm-1, 822 cm-1).

reactant | 4-chloro-2-fluorophenylhydrazine | ClC1=CC(=C(C=C1)NN)F | C6H6ClFN2
reactant | 2-acetylcyclohexanone | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-chloro-2-fluorophenyl)-3-methyl-4,5,6,7-tetrahydro-2H-indazole | ClC1=CC(=C(C=C1)N1N=C2CCCCC2=C1C)F | C14H14ClFN2
